US04507498
A mixture of 3.0 g of 1-[2,4-dihydroxy-3-propylphenyl)ethanone, 6.65 g of [4-acetyl-3-[(5-bromopentyl)oxy]-2-propylphenoxy]acetic acid ethyl ester and 4.3 g of anhydrous potassium carbonate in 100 ml of anhydrous acetone and 50 ml of anhydrous dimethylformamide was stirred at reflux for 24 hours. The reaction mixture was concentrated in vacuo to a red oil which was purified by high pressure liquid chromatography using 25% ethyl acetate-hexane to yield 4.95 g (59%) of [4-acetyl-3-[5-(4-acetyl-3-hydroxy-2-propylphenoxy)pentyloxy]-2-propylphenoxy] acetic acid ethyl ester as a yellow oil.

reactant | 1-[2,4-dihydroxy-3-propylphenyl)ethanone | 3.0 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | [4-acetyl-3-[(5-bromopentyl)oxy]-2-propylphenoxy]acetic acid ethyl ester | 6.65 g | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)OCCCCCBr)CCC)=O | C20H29BrO5
reactant | potassium carbonate | 4.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | [4-acetyl-3-[5-(4-acetyl-3-hydroxy-2-propylphenoxy)pentyloxy]-2-propylphenoxy] acetic acid ethyl ester | 4.95 g, 59% | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)OCCCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C31H42O8
